US07553836B2
Step A. Preparation of 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene
A mixture of the potassium salt of 2-methoxy-4-nitrophenol (2.07 g, 10.0 mmol), 1,2-dibromoethane (1.72 mL, 20.0 mol), 1 N KOH (50 mL), tetrabutyl ammonium bromide (3.22 g 10.0 mol), and CH2Cl2 was stirred overnight. The reaction was diluted with 300 mL of EtOAc, washed with sat. NH4Cl solution (2×50 mL). The organic layer was dried over Na2SO4 prior to concentration in vacuum to a yellow solid. The solid was then washed with MeOH (2×5 mL) to yield 2.0 g (72%) of the title compound as a white solid. MS (ESI) 276, 278 (M+H)+.

reactant | potassium | [K] | K
reactant | 2-methoxy-4-nitrophenol | 10.0 mmol, 2.07 g | COC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO4
reactant | 1,2-dibromoethane | 20.0 mol, 1.72 mL | BrCCBr | C2H4Br2
reactant | KOH | 1 N, 50 mL | [OH-].[K+]
catalyst | tetrabutyl ammonium bromide | 10.0 mol, 3.22 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene | 2.0 g, 72% | BrCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10BrNO4
